US07053095B2
Step B: Preparation of 3-Isopropyl-6-ethynyl-[1,2,4]triazolo(4,3-a)pyridine
To a 250 mL round bottom flask was added 2.5 g (9.71 mmol) of 3-Isopropyl-6-trimethylsilanylethynyl-[1,2,4]triazolo(4,3-a)pyridine, 50 mL of methanol, and 4.03 g (29.1 mmol) of potassium carbonate. This suspension was stirred at room temperature for 2 hours. The reaction mixture was concentrated, and the residue was suspended in 100 mL of water, which was extracted with (2×100 mL) ethyl acetate. The organic extracts were combined, washed with 100 mL of a 1:1 solution of brine and water, dried over magnesium sulfate, filtered, and concentrated to dryness to yield 1.47 grams (82%) of a light brown solid. HPLC tR=3.22 min (93%), LC-MS=186 (M+1).

reactant | 3-Isopropyl-6-trimethylsilanylethynyl-[1,2,4]triazolo(4,3-a)pyridine | 9.71 mmol, 2.5 g | C(C)(C)C1=NN=C2N1C=C(C=C2)C#C[Si](C)(C)C | C14H19N3Si
reactant | potassium carbonate | 29.1 mmol, 4.03 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 3-Isopropyl-6-ethynyl-[1,2,4]triazolo(4,3-a)pyridine | 1.47 grams, 82% | C(C)(C)C1=NN=C2N1C=C(C=C2)C#C | C11H11N3
